US09260391B2
With reference to FIG. 11, tetrabenazine (317 mg, 1 mmol) was dissolved in methanol (MeOH, 10 ml) and cooled with ice-water. To this solution, ammonia acetate (500 mg) was added, followed by the addition of sodium borohydride (50 mg) in portion. The reaction was stirred at room temperature for 24 hours and quenched with water. The aqueous solution was extracted with methylene chloride (10 ml) twice. The combined organic phase was washed with brine and dried with sodium sulfate. After removing the solvent, the residue was purified by chromatography. One hundred and fifty milligrams of (HG-6) (3-isobutyl-9,10-dimethoxy-2,3,4,6,7,11b-hexahydro-1H-pyrido[2,1-a]isoquinolin-2-amine) was obtained as white solid (yield: 47%).

reactant | tetrabenazine | 1 mmol, 317 mg | CC(C)CC1CN2CCC3=CC(=C(C=C3C2CC1=O)OC)OC | C19H27NO3
reactant | ammonia acetate | 500 mg | C(C)(=O)O.N
reactant | sodium borohydride | 50 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3-isobutyl-9,10-dimethoxy-2,3,4,6,7,11b-hexahydro-1H-pyrido[2,1-a]isoquinolin-2-amine | C(C(C)C)C1C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)N | C19H30N2O2
